US06166040
(16) 1-(2-Hydroxy-1-ethyl)-3,3,7-trimethyl-1,3-dihydro-2H-indol-2-one
Prepared from 3,3,7-trimethyl-1,3-dihydro-2H-indol-2-one (prepared by the method of Endler and Becker; Organic Syntheses Coll. vol. 4 page 657) and 2-(2-chloroethoxy)tetrahydro-2H-pyran as described above.

reactant | 3,3,7-trimethyl-1,3-dihydro-2H-indol-2-one | CC1(C(NC2=C(C=CC=C12)C)=O)C | C11H13NO
reactant | 2-(2-chloroethoxy)tetrahydro-2H-pyran | ClCCOC1OCCCC1 | C7H13ClO2
product | 1-(2-Hydroxy-1-ethyl)-3,3,7-trimethyl-1,3-dihydro-2H-indol-2-one | OCCN1C(C(C2=CC=CC(=C12)C)(C)C)=O | C13H17NO2
